US07569579B2
Preparation 8B: N-{[(1R,2R)-2-formyl-1-phenylcyclopropyl]methyl}N-methylbenzenesulfonamide
N-{[(1R,2R)-2-(hydroxymethyl)-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide (600 mg, 1.82 mmol), accessed via the method of preparation 7B, was dissolved in 18 mL DCM with 270 uL 2-methylpropan-2-ol and treated with Dess-Martin Periodinane (1.23 g, 2.90 mmol, 1.6 eq) at ambient temperature for 16 h. The reaction mixture was diluted with 42 mL diethyl ether and treated with 22 mL 1N NaOH at ambient temperature for 15 min. The organic phase was separated, the aqueous phase extracted twice with diethyl ether, the organic phases combined, washed with brine, dried over MgSO4, filtered and concentrated to a colorless oil. The crude material was purified by flash chromatography (SiO2, eluted successively with DCM, EtOAc/hexanes (1:4)) to the title product (410 mg, 1.24 mmol, 69%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 8.54 (d, J=6.7 Hz, 1H), 7.65 (m, 2H), 7.55 (m, 1H), 7.47 (m, 2H), 7.31-7.23 (m, 5H), 3.50 (d, J=14.3 Hz, 1H), 3.09 (d, J=14.3 Hz, 1H), 2.52 (s, 3H), 2.15-2.08 (m, 1H), 1.93 (m, 1H), 1.76-1.73 (m, 1H).

reactant | N-{[(1R,2R)-2-(hydroxymethyl)-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide | 1.82 mmol, 600 mg | OC[C@H]1[C@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C18H21NO3S
reactant | Dess-Martin Periodinane | 2.90 mmol, 1.23 g, 1.6 eq | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | NaOH | 1N, 22 mL | [OH-].[Na+]
solvent | DCM | 18 mL | C(Cl)Cl | CH2Cl2
solvent | 2-methylpropan-2-ol | 270 uL | CC(C)(C)O | C4H10O
solvent | diethyl ether | 42 mL | C(C)OCC | C4H10O
product | N-{[(1R,2R)-2-formyl-1-phenylcyclopropyl]methyl}N-methylbenzenesulfonamide | 1.24 mmol, 410 mg, 69% | C(=O)[C@H]1[C@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C18H19NO3S
